US09056874B2
a) (±)-2-(1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-(1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile and (±)-2-(1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile was transformed into the title compound using the same reaction conditions as described in Example 10-B and Example 10-C. 1H NMR (400 MHz, DMSO-d6) δ 12.24-12.49 (m, 1H), 11.46 (br. s., 1H), 8.17-8.32 (m), 7.70-7.84 (m, 2H), 7.54 (m, 1H), 7.45 (m), 7.18 (t, J=2.91 Hz, 1H), 6.49-6.69 (m, 1H), 5.63 (dt, J=1.83, 3.82 Hz, 1H), 3.55 (s, 3H), 2.51 (s, 3H), 2.27 (s, 3H). HRMS calcd. for C20H18N4O3S (M+H)+ 395.1173. found 395.1173.

reactant | (±)-2-(1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | OC(C)(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C33H38N4O4S2Si
reactant | (±)-2-(1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C)(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C33H38N4O4S2Si
product | (±)-2-(1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C)(C1=C2C=CNC2=C(C=C1S(=O)(=O)C)C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H18N4O3S
